US08039479B2
Methyl 4′-amino-5′-methoxy-2′-methylbiphenyl-4-carboxylate generated in Step 1 (200 mg, 0.75 mmol), 2,4-dibromo-5-chloropyridine (222 mg, 0.82 mmol, 1.1 equiv), Pd2(dba)3 (17 mg, 0.02 mmol, 0.025 equiv.), xantphos (22 mg, 0.04 mmol, 0.05 equiv.), and Cs2CO3 (365 mg, 1.1 mmol, 1.5 equiv.) are added to THF (5 mL). The resulting mixture is bubbled with N2 gas for 5 minutes and then heated at 150° C. for 4 hours. After cooling to room temperature, the reaction mixture is diluted into EtOAc and washed with H2O. The EtOAc layer is dried over Mg2SO4 and concentrated in vacuo. Silica gel chromatography (hexanes-EtOAc) affords Methyl 4′-(4-bromo-5-chloropyridin-2-ylamino)-5′-methoxy-2′-methylbiphenyl-4-carboxylate; MS m/z 461.0 (M+1).

reactant | Methyl 4′-amino-5′-methoxy-2′-methylbiphenyl-4-carboxylate | NC1=CC(=C(C=C1OC)C1=CC=C(C=C1)C(=O)OC)C | C16H17NO3
reactant | 2,4-dibromo-5-chloropyridine | 0.82 mmol, 222 mg, 1.1 equiv | BrC1=NC=C(C(=C1)Br)Cl | C5H2Br2ClN
reactant | xantphos | 0.04 mmol, 22 mg, 0.05 equiv. | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 1.1 mmol, 365 mg, 1.5 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.02 mmol, 17 mg, 0.025 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Methyl 4′-(4-bromo-5-chloropyridin-2-ylamino)-5′-methoxy-2′-methylbiphenyl-4-carboxylate | BrC1=CC(=NC=C1Cl)NC1=CC(=C(C=C1OC)C1=CC=C(C=C1)C(=O)OC)C | C21H18BrClN2O3
